US04371537
The 2-(3,4-dichlorophenoxy)-5-nitropyridine described above was divided into 4 portions of 23.7 g each, and each portion was then hydrogenated in absolute ethanol employing a palladium catalyst as well known in the art. After removal of the catalyst, the ethanol filtrates were combined and evaporated to dryness. The residue which remained was diluted with isopropyl alcohol and hexane and then chilled. The resulting solid was collected by filtration and vacuum dried to give 70.8 g of 2-(3,4-dichlorophenoxy)-5-pyridinamine as a rose colored powder, m.p. 78°-79.3° C.

reactant | 2-(3,4-dichlorophenoxy)-5-nitropyridine | ClC=1C=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=CC1Cl | C11H6Cl2N2O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 2-(3,4-dichlorophenoxy)-5-pyridinamine | 70.8 g | ClC=1C=C(OC2=NC=C(C=C2)N)C=CC1Cl | C11H8Cl2N2O
